US09212190B2
Synthesis of (2S)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]but-3-en-2-ol (I-126)
A 50-mL round-bottom flask was charged with a solution of tert-butyl N-(1-ethyl-4-[[(3R)-3-[(2S)-2-hydroxybut-3-en-1-yl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (35 mg, 0.07 mmol, 1.00 equiv; prepared in a manner analogous to compounds 132.1 and 132.2 in Example 132) and hydrogen chloride (conc.) (0.2 mL) in dichloromethane (10 mL). After stirring for 1 h at 0° C. in an water/ice bath, the reaction was then quenched by the addition of 20 mL of saturated sodium bicarbonate. The resulting solution was extracted with 4×30 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. The crude product (30 mg) was purified by preparative HPLC under the following conditions (1#-Pre-HPLC-016(Waters)): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 50 mL NH4CO3 and CH3CN (5.0% CH3CN up to 44.0% in 10 min, up to 95.0% in 2 min, down to 5.0% in 2 min); detector: 254/220 nm. The product was freeze-dried. This resulted in (2S)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]but-3-en-2-ol (14.6 mg, 52%) as a white solid. 1H NMR (400 MHz, CD3OD): δ: 8.48 (s, 1H), 5.97-5.93 (m, 1H), 5.45-5.43 (m, 1H), 5.29 (d, J=8, 1H), 5.17 (d, J=8, 1H), 4.24-4.26 (m, 1H), 3.39-3.32 (m, 1H), 3.13-2.99 (m 2H), 2.66-2.47 (m, 2H), 2.20-2.16 (m, 3H), 1.93-1.55 (m, 9H), 0.99 (s, 3H). MS: m/z 388 (M+H)+.

reactant | tert-butyl N-(1-ethyl-4-[[(3R)-3-[(2S)-2-hydroxybut-3-en-1-yl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | C(C)C1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H](C=C)O)NC(OC(C)(C)C)=O | C26H37N3O4S
reactant | hydrogen chloride | 0.2 mL | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]but-3-en-2-ol | NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H](C=C)O)CC | C21H29N3O2S
